### PR TITLE
[Merged by Bors] - chore: factor out lemmas from `LinearOrder ℚ`

### PR DESCRIPTION
**Pull request by kim-em**

### CODE REVIEW

File: Mathlib/Algebra/Order/Ring/Unbundled/Rat.lean [hunk 1]
```diff
@@ -123,29 +123,39 @@ protected lemma divInt_le_divInt {a b c d : ℤ} (b0 : 0 < b) (d0 : 0 < d) :
   rw [Rat.le_iff_sub_nonneg, ← Int.sub_nonneg]
   simp [sub_eq_add_neg, ne_of_gt b0, ne_of_gt d0, Int.mul_pos d0 b0]
 
-protected lemma le_total : a ≤ b ∨ b ≤ a := by
+protected lemma le_total {a b : ℚ} : a ≤ b ∨ b ≤ a := by
```
Comment (grunweg) [inline Mathlib/Algebra/Order/Ring/Unbundled/Rat.lean]: The file has `a b : Q` in a variable block at the very beginning. Is there a particular reason you're repeating them? (Same below.)

**Review by grunweg — COMMENTED** [review]
Thanks!
maintainer delegate

File: Mathlib/Algebra/Order/Ring/Unbundled/Rat.lean (hunk 1 above)
Comment (kim-em) [reply Mathlib/Algebra/Order/Ring/Unbundled/Rat.lean]: Thanks, I've cleaned these up.

**Comment by bryangingechen** [comment]
Thanks!
bors r+
